US06376485B1
A3. 2-Methyl-7-methoxybenzoxazol-4-ylacetonitrile
Thionyl chloride (40 ml) is slowly added at 0° C. with stirring to a suspension of 2-acetamido-3-hydroxy-4-methoxybenzyl alcohol (2.5 g, 12.0 mmol) and anhydrous CH2Cl2 (30 ml). After the reaction mixture has warmed to RT, it is stirred for 1 h and then stirred at 50° C. for a further 1.5 h. The reaction solution is concentrated in vacuo and then coevaporated with toluene (3 times). The residue obtained is dissolved in a mixture of toluene and DMF (8:1, 45 ml) and added dropwise to a solution of KCN (1.0 g, 15.4 mmol) in 18-crown-6 (4.07 g, 15.4 mmol) and absolute DMF (55 ml). The reaction solution is stirred overnight at RT and then poured into a half-concentrated aqueous NaCl solution, extracted with ethyl acetate (5 times), dried over MgSO4, filtered off and concentrated in vacuo. For further purification, the crude product is filtered through a silica gel column [petroleum ether/ethyl acetate (6:4)]. The title compound is obtained as colorless crystals (1.28 g). TLC, silica gel (glass plates), petroleum ether/ethyl acetate (6:4), Rf=0.32.

reactant | Thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-acetamido-3-hydroxy-4-methoxybenzyl alcohol | 12.0 mmol, 2.5 g | C(C)(=O)NC1=C(CO)C=CC(=C1O)OC | C10H13NO4
reactant | KCN | 15.4 mmol, 1.0 g | [C-]#N.[K+]
reactant | 18-crown-6 | 15.4 mmol, 4.07 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | NaCl | [Na+].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
solvent | DMF | 55 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-7-methoxybenzoxazol-4-ylacetonitrile | CC=1OC2=C(N1)C(=CC=C2OC)CC#N | C11H10N2O2
